US07250522B2
A mixture of 1,3-dimethoxy-2-(4-ethylbenzyl)benzene (6.0 g, 23.4 mmol) and pyridine hydrochloride (21.6 g, 187 mmol) was heated and stirred at 180° C. for 15 hours. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic phase was washed with diluted aqueous hydrochloric acid and saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=80:20) to give 2-(4-ethylbenzyl)resorcinol (5.2 g, 97%) as a light-brown oil.

reactant | 1,3-dimethoxy-2-(4-ethylbenzyl)benzene | 23.4 mmol, 6.0 g | COC1=C(C(=CC=C1)OC)CC1=CC=C(C=C1)CC | C17H20O2
reactant | pyridine hydrochloride | 187 mmol, 21.6 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 2-(4-ethylbenzyl)resorcinol | 5.2 g, 97% | C(C)C1=CC=C(CC2=C(O)C=CC=C2O)C=C1 | C15H16O2
